US07932282B2
To a solution of 1,1-dimethylethyl 1-methyl-2-oxo-4-imidazolidinecarboxylate (200 mg, 0.999 mmol) (prepared as described in step (i) of Example 49 from 5-(1,1-dimethylethyl)1-(phenylmethyl)3-methyl-2-oxo-1,5-imidazolidinedicarboxylate, itself prepared as described in step (ii) of Example 13, starting originally from (4S)-2-oxo-3-{[(phenylmethyl)oxy]carbonyl}-4-imidazolidinecarboxylic acid) in N,N-dimethylformamide (10 ml) at −35° C. under argon was added sodium hydride (39.9 mg, 0.999 mmol). The mixture was stirred for 15 minutes, 2,2-difluoroethyl trifluoromethanesulfonate (428 mg, 1.998 mmol) was added and the reaction mixture was stirred at −35° C. for 30 minutes then slowly warmed to −15° C. After 1 hour the reaction mixture was quenched with water (10 ml), warmed to room temperature and extracted with ethyl acetate (20 ml×2). The combined organic layers were washed with sodium hydrogen carbonate saturated solution (15 ml), water (10 ml×2) and brine (15 ml). The organic layer was then dried (magnesium sulfate), filtered and evaporated. The crude residue was purified by silica gel chromatography eluting with 10-100% of ethyl acetate in isohexane to give 1,1-dimethylethyl 3-(2,2-difluoroethyl)-1-methyl-2-oxo-4-imidazolidinecarboxylate (178 mg). LC/MS [M+H]+=265. (ii) 1,1-Dimethylethyl 3-(2,2-difluoroethyl)-1-methyl-2-oxo-4-imidazolidinecarboxylate (178 mg, 0.674 mmol) was dissolved in dichloromethane (3.00 ml) and trifluoroacetic acid (1 ml) was added. The solution was stirred at room temperature for 2 hours. The solvent was evaporated and the residue co-evaporated with dichloromethane and toluene to give a crude 3-(2,2-difluoroethyl)-1-methyl-2-oxo-4-imidazolidinecarboxylic acid (assume 0.674 mmol) which was used for the next reaction. LC/MS [M+H]+=209.

reactant | 1,1-dimethylethyl 1-methyl-2-oxo-4-imidazolidinecarboxylate | 0.999 mmol, 200 mg | CN1C(NC(C1)C(=O)OC(C)(C)C)=O | C9H16N2O3
reactant | (4S)-2-oxo-3-{[(phenylmethyl)oxy]carbonyl}-4-imidazolidinecarboxylic acid | O=C1NC[C@H](N1C(=O)OCC1=CC=CC=C1)C(=O)O | C12H12N2O5
reactant | sodium hydride | 0.999 mmol, 39.9 mg | [H-].[Na+]
reactant | 2,2-difluoroethyl trifluoromethanesulfonate | 1.998 mmol, 428 mg | FC(S(=O)(=O)OCC(F)F)(F)F | C3H3F5O3S
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1,1-dimethylethyl 3-(2,2-difluoroethyl)-1-methyl-2-oxo-4-imidazolidinecarboxylate | 178 mg | FC(CN1C(N(CC1C(=O)OC(C)(C)C)C)=O)F | C11H18F2N2O3
